US06184244B2
N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-4-oxo-5-[1-phenyl-3-(trifluoromethyl)pyrazol-5-yloxy]-pentanoic acid
Treatment of N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-4-oxo-5-[1-phenyl3-(trifluoromethyl)pyrazol-5-yloxy]-pentanoic acid, tert-butyl ester (55 mg, 0.071 mmol) with TFA as described in Example 80 gave the titled product (24.6 mg, 48%) as a white powder. MS C38H44F4N5O6, [M+H]+ =746, [M−H]− =722. TLC (CH2Cl2/MeOH, 90/10): Rf=0.26.

reactant | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-4-oxo-5-[1-phenyl3-(trifluoromethyl)pyrazol-5-yloxy]-pentanoic acid, tert-butyl ester | 0.071 mmol, 55 mg | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=CC(=NN1C1=CC=CC=C1)C(F)(F)F)=O)C1CCCCC1 | C42H52F3N5O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-4-oxo-5-[1-phenyl-3-(trifluoromethyl)pyrazol-5-yloxy]-pentanoic acid | 24.6 mg, 48% | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)O)C(COC1=CC(=NN1C1=CC=CC=C1)C(F)(F)F)=O)C1CCCCC1 | C38H44F3N5O6
